US07399778B2
4-Cyano-N-[2-ethyl-1-(1-phenyl-1H-pyrazol-5-yl)butyl]benzenesulfonamide
This compound was prepared using the method described in example 10, but 1-phenyl-1H-pyrazole was used as the starting material in step 10B and 4-cyanobenzenesulfonyl chloride was used as the sulfonyl chloride in step IOE. mp 134.6-136.6° C.; Mass Spectrum (−ES): 407.1 (M−H)−.

reactant | 1-phenyl-1H-pyrazole | C1(=CC=CC=C1)N1N=CC=C1 | C9H8N2
reactant | 4-cyanobenzenesulfonyl chloride | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 4-Cyano-N-[2-ethyl-1-(1-phenyl-1H-pyrazol-5-yl)butyl]benzenesulfonamide | C(#N)C1=CC=C(C=C1)S(=O)(=O)NC(C(CC)CC)C1=CC=NN1C1=CC=CC=C1 | C22H24N4O2S
